US07265149B2
In analogy to the procedure described for example 1 f], {6-[2-ethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester was treated with LiOH to obtain {6-[2-ethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid as yellow crystals.

reactant | {6-[2-ethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N(N=C(C1)C1=CC=C(C=C1)C(F)(F)F)CC)=O | C27H28F3N3O3
reactant | LiOH | [Li+].[OH-]
product | {6-[2-ethyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid | C(C)N1N=C(C=C1COC1=CC=C2C=CN(C2=C1)CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C23H20F3N3O3
